US04369312
A solution of benzhydryl 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate (3.96 g) in methylene chloride (60 ml) was cooled to -60° C., and then triethylamine (3.35 ml) and trifluoromethanesulfonic anhydride (4.71 ml) were added to the solution. The mixture was stirred at the same temperature for 1 hour at -50°~-30° C. for 30 minutes, and then at -30°~-10° C. for another 30 minutes. The reaction mixture was poured in a cold aqueous sodium chloride and extracted with a mixture of diethyl ether (250 ml) and ethyl acetate (50 ml). The extract was washed with an aqueous sodium chloride and dried over magnesium sulfate. The solvent was then distilled off. The resultant crystalline solid was washed with a solvent mixture of diisopropyl ether and hexane to give benzhydryl 7-[N,N-bis(trifluoromethanesulfonyl)amino]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate (5.40 g). Mp. 125° -127° C. (dec.)

reactant | benzhydryl 7-amino-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 3.96 g | NC1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H22N6O3S2
reactant | triethylamine | 3.35 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 4.71 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium chloride | [Cl-].[Na+]
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-[N,N-bis(trifluoromethanesulfonyl)amino]-3-(1-methyl-1H-tetrazol-5-ylthiomethyl)-3-cephem-4-carboxylate | 5.40 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1[C@@H]2N(C(=C(CS2)C(C)SC2=NN=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)(F)F | C25H20F6N6O7S4
